US06733698B2
Bis(4-glycidoxyphenyl)phenylphosphine Oxide
Tris(2-glycidoxyphenyl) phosphine Oxide. Heat a mixture of tris(2-hydroxyphenyl)phosphine oxide (198.2 g, 0.607 mol), epichlorohydrin (674.0 g, 7.28 mol), and methyl cellosolve (75 g) to 80° C. Add solid sodium hydroxide (76.4 g, 1.91) slowly over 1.5 h. Moderate the reaction exotherm by cooling the reaction mixture in an ice-bath. Remove the volatiles under vacuum at a temperature of 160° C. Then add methylene chloride (3 L) and remove sodium chloride by filtration. After filtration, remove the volatiles under vacuum at 150° C. and isolate the title compound.

reactant | Tris(2-glycidoxyphenyl) phosphine Oxide | C(C1CO1)OC1=C(C=CC=C1)P(C1=C(C=CC=C1)OCC1CO1)(C1=C(C=CC=C1)OCC1CO1)=O | C27H27O7P
reactant | tris(2-hydroxyphenyl)phosphine oxide | 0.607 mol, 198.2 g | OC1=C(C=CC=C1)P(C1=C(C=CC=C1)O)(C1=C(C=CC=C1)O)=O | C18H15O4P
reactant | epichlorohydrin | 7.28 mol, 674.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 76.4 g | [OH-].[Na+]
solvent | methyl cellosolve | 75 g | COCCO | C3H8O2
product | Bis(4-glycidoxyphenyl)phenylphosphine Oxide | C(C1CO1)OC1=CC=C(C=C1)P(C1=CC=CC=C1)(C1=CC=C(C=C1)OCC1CO1)=O | C24H23O5P
